US07220862B2
(3-Methyl-4,5-dinitrophenyl)methanol
A solution of 3-methyl-4,5-dinitrobenzoic acid (4.0 g, 17.7 mmol) in tetrahydrofuran (200 mL) was cooled to −70° C. with a dry ice/acetone bath. To this solution was added borane-tetrahydrofuran (1M in tetrahydrofuran, 35.4 mL). The reaction mixture was allowed to slowly warm to room temperature and was stirred for 16 h. The reaction was incomplete, was again cooled to −50° C. and additional borane-tetrahydrofuran (1M in tetrahydrofuran, 35.4 mL) was added. Again, the reaction mixture was allowed to slowly warm to room temperature overnight. The reaction was quenched with a mixture of acetic acid and water (1:1, 30 mL) while cooling at 0° C. After stirring for 30 min, all organic solvent was evaporated and the aqueous material was neutralized by pouring into ice cold saturated sodium bicarbonate (350 mL) in small portions. The aqueous layer was extracted with ethyl acetate. The extracts were washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue was subjected to flash column chromatography (1:2 hexanes/ethyl acetate) to give the title compound (3.2 g, 86% yield). 1H-NMR (CDCl3, 300 MHz) δ 8.00 (s, 1H), 7.62 (s, 1H), 4.82 (s, 2H), 2.41 (s, 3H). 13C-NMR (CDCl3, 75 MHz) δ 144.5, 143.3, 140.9, 134.3, 132.9, 120.8, 63.0, 17.4.

reactant | 3-methyl-4,5-dinitrobenzoic acid | 17.7 mmol, 4.0 g | CC=1C=C(C(=O)O)C=C(C1[N+](=O)[O-])[N+](=O)[O-] | C8H6N2O6
reactant | borane tetrahydrofuran | 1M, 35.4 mL | B.O1CCCC1
reactant | borane tetrahydrofuran | 1M, 35.4 mL | B.O1CCCC1
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | (3-Methyl-4,5-dinitrophenyl)methanol | 3.2 g, 86% yield | CC=1C=C(C=C(C1[N+](=O)[O-])[N+](=O)[O-])CO | C8H8N2O5
